US06743926B2
(E)-3-[3-(4-Fluorophenyl)-1-isopropyl-1H-indol-2-yl]-N-methoxy-N-methylacrylamide
0.465 g (10.65 mmol) of sodium hydride (55%) are introduced into a 100 ml three-necked, round-bottomed flask, equipped with a magnetic stirrer, thermometer, dropping funnel and nitrogen delivery line, and washed twice with 5 ml of pentane. The pentane is removed using a pipette and the sodium hydride is blown dry with nitrogen. 10 ml of THF, rendered absolute using sodium, are added, and 1.84 g (7.46 mmol) of diethyl (N-methoxy-N-methylcarbamoyl-methyl)phosphonate dissolved in 5 ml of THF are slowly added dropwise so that the temperature does not exceed 30° C. 1 g (3.55 mmol) of 3-(4-fluorophenyl)-1-isopropyl-1H-indole-2-carbaldehyde dissolved in 10 ml of THF is then added dropwise and the clear, slightly yellow solution is stirred overnight. The reaction mixture is poured into 100 ml of water and extracted 3 times with 50 ml of ethyl acetate. The combined organic phases are washed twice with 50 ml of saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated by evaporation. Flash chromatography (hexane/ethyl acetate=2:1) and crystallisation from 94% ethanol yields slightly yellow crystals having a melting point of from 123 to 124° C.

reactant | sodium hydride | 10.65 mmol, 0.465 g | [H-].[Na+]
reactant | diethyl (N-methoxy-N-methylcarbamoyl-methyl)phosphonate | 7.46 mmol, 1.84 g | CCOP(=O)(CC(=O)N(C)OC)OCC | C8H18NO5P
reactant | 3-(4-fluorophenyl)-1-isopropyl-1H-indole-2-carbaldehyde | 3.55 mmol, 1 g | FC1=CC=C(C=C1)C1=C(N(C2=CC=CC=C12)C(C)C)C=O | C18H16FNO
reactant | water | 100 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (E)-3-[3-(4-Fluorophenyl)-1-isopropyl-1H-indol-2-yl]-N-methoxy-N-methylacrylamide | FC1=CC=C(C=C1)C1=C(N(C2=CC=CC=C12)C(C)C)/C=C/C(=O)N(C)OC | C22H23FN2O2
